US07288544B2
2) Synthesis of 4-(3-chlorophenyl)-2,6-dimethyl-5-(4-methylpiperazine-1-carbonyl)nicotinic acid (2-(5H-dibenzo[a,d] cyclohepten-5-yl) ethyl) ester:
4 ml of methanol and 0.32 ml of 1 N aqueous sodium hydroxide solution were added to 153 mg (0.265 mmol) of 4-(3-chlorophenyl)-2,6-dimethyl-1,4-dihydropyridine-3,5-dicarboxylic acid 3-(2-cyanoethyl) ester 5-(2-(5H-dibenzo[a,d] cyclohepten-5-yl) ethyl) ester and stirred at room temperature overnight. After adding 1 N hydrochloric acid, methanol was evaporated under reduced pressure. After water was added, the reaction mixture was extracted with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. 5 ml of dichloromethane, 68 mg (0.352 mmol) of WSC hydrochloride, 0.039 ml (0.352 mmol) of N-methylpiperazine, 0.049 ml (0.352 mmol) of triethylamine and 3.6 mg (0.029 mmol) of dimethylaminopyridine were added to the residue and the residue was stirred at room temperature overnight. 2 ml of trifluoroacetate was added and stirred at room temperature for 4 hours. After concentration under reduced pressure, saturated aqueous sodium hydrogencarbonate solution was added to basify. After extraction with ethyl acetate, the organic layer was dried over anhydrous sodium sulfate and then concentrated under reduced pressure. The residue was purified by the silica gel chromatography (dichloromethane/methanol=9/1) to obtain the title compound.

reactant | sodium hydroxide | 1 N, 0.32 ml | [OH-].[Na+]
reactant | 4-(3-chlorophenyl)-2,6-dimethyl-1,4-dihydropyridine-3,5-dicarboxylic acid 3-(2-cyanoethyl) ester 5-(2-(5H-dibenzo[a,d] cyclohepten-5-yl) ethyl) ester | 0.265 mmol, 153 mg | C1=CC=CC=2C(C3=C(C=CC21)C=CC=C3)CCOC(=O)C=3C(C(=C(NC3C)C)C(=O)OCCC#N)C3=CC(=CC=C3)Cl | C35H31ClN2O4
reactant | hydrochloric acid | 1 N | Cl | ClH
reactant | WSC hydrochloride | 0.352 mmol, 68 mg | CCN=C=NCCCN(C)C.Cl
reactant | N-methylpiperazine | 0.352 mmol, 0.039 ml | CN1CCNCC1 | C5H12N2
reactant | triethylamine | 0.352 mmol, 0.049 ml | C(C)N(CC)CC | C6H15N
reactant | dimethylaminopyridine | 0.029 mmol, 3.6 mg | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | trifluoroacetate | 2 ml | FC(C(=O)[O-])(F)F
reactant | methanol | CO | CH4O
reactant | methanol | 4 ml | CO | CH4O
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 4-(3-chlorophenyl)-2,6-dimethyl-5-(4-methylpiperazine-1-carbonyl)nicotinic acid (2-(5H-dibenzo[a,d] cyclohepten-5-yl) ethyl) ester | C1=CC=CC=2C(C3=C(C=CC21)C=CC=C3)CCOC(C3=C(N=C(C(=C3C3=CC(=CC=C3)Cl)C(=O)N3CCN(CC3)C)C)C)=O | C37H36ClN3O3
